US04029780
7-Chloro-3-(4-methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of 3.0 g of 3-amino-7-chloro-2H-1,2,4-benzothiadiazine 1,1-dioxide and 2.5 g of 1-methylpiperazine is heated at 185° C. in a sealed tube for 8 hours. After removal of the remaining 1-methylpiperazine by distillation under reduced pressure, the residual solid is recrystallized from a mixture of dimethylformamide and water to give 2.8 g of the desired product, m.p. above 300° C.

reactant | 3-amino-7-chloro-2H-1,2,4-benzothiadiazine 1,1-dioxide | 3.0 g | NC=1NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H6ClN3O2S
reactant | 1-methylpiperazine | 2.5 g | CN1CCNCC1 | C5H12N2
product | 7-Chloro-3-(4-methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide | 2.8 g | ClC1=CC2=C(N=C(NS2(=O)=O)N2CCN(CC2)C)C=C1 | C12H15ClN4O2S
